US04958033
In the same flask as in Example 1, there were charged granular magnesium (18.2 g), dry zinc chloride (10.2 g) and dry tetrahydrofuran (110 g). Propargyl bromide (0.88 g) was added thereto at 10° C while stirring. The resultant mixture was kept in an adiabatic condition, whereupon the reaction proceeded. When the heat generation stopped, a mixture of furfural (48.0 g), propargyl bromide (73.5 g) and toluene (110 g) was dropwise added to the reaction mixture at 30° C in 3 hours while stirring under cooling. The resultant mixture was kept at room temperature for 30 minutes while stirring. After completion of the reaction, the reaction mixture was treated in the same manner as in Example 1 and distilled under reduced pressure (65°-66° C./ 0.45 mmHg) to give 2-(1-hydroxy-3-butynyl)-furan (61.3 g) in a yield of 90% (based on the starting furfural).

reactant | magnesium | 18.2 g | [Mg] | Mg
reactant | tetrahydrofuran | 110 g | O1CCCC1 | C4H8O
reactant | furfural | 48.0 g | C(C1=CC=CO1)=O | C5H4O2
reactant | propargyl bromide | 73.5 g | C(C#C)Br | C3H3Br
catalyst | zinc chloride | 10.2 g | [Cl-].[Zn+2].[Cl-]
catalyst | Propargyl bromide | 0.88 g | C(C#C)Br | C3H3Br
solvent | toluene | 110 g | C1(=CC=CC=C1)C | C7H8
product | 2-(1-hydroxy-3-butynyl)-furan | 61.3 g, yield of 90% | OC(CC#C)C=1OC=CC1 | C8H8O2
